US07569570B2
Preparation of 3-[(benzyloxy)methyl]-1-methylpyrrolidin-2-one
A solution of n-butyllithium in hexane (1.6 M) (13.75 ml, 22 mmol) was added dropwise into a solution of diisopropylamine (3.08 ml, 22 mmol) in tetrahydrofuran (50 ml) with ice-cooling. After stirring at 0° C. for 30 minutes, it was cooled to −78° C., and then a solution of 1-methylpyrrolidin-2-one (1.98 g, 20 mmol) in THF (20 ml) was added dropwise. After stirring at −78° C. for 30 minutes, a solution of benzyl chloromethyl ether (3.76 g, 24 mmol) in THF (30 ml) was added dropwise. After stirring at −78° C., water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane; 4/1) to give the title compound (4.14 g, 94%) as a colorless oily matter.

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 22 mmol, 1.6 M, 13.75 ml | CCCCCC | C6H14
reactant | diisopropylamine | 22 mmol, 3.08 ml | C(C)(C)NC(C)C | C6H15N
reactant | 1-methylpyrrolidin-2-one | 20 mmol, 1.98 g | CN1C(CCC1)=O | C5H9NO
reactant | benzyl chloromethyl ether | 24 mmol, 3.76 g | ClCOCC1=CC=CC=C1 | C8H9ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-[(benzyloxy)methyl]-1-methylpyrrolidin-2-one | 4.14 g, 94% | C(C1=CC=CC=C1)OCC1C(N(CC1)C)=O | C13H17NO2
